US04234578
The product, containing 7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid, is dissolved in 30 ml of dioxane, 1.5 g of diphenyldiazomethane are added to the solution and the mixture is stirred for 12 hours at room temperature and then concentrated. After crystallisation from a mixture of methyl acetate and diethyl ether, the residue gives 7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester.

reactant | 7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C22H27N7O6S3
reactant | diphenyldiazomethane | 1.5 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC=2SC(=CC2)CNC(=O)OC(C)(C)C)=O)=O)C(C)SC2=NN=NN2 | C35H37N7O6S3
